US04387238
Following the procedure of Example 1, monoethyl potassium epoxysuccinate (1.5 g) was successively treated with oxalyl chloride (1.04 g) and isoamylamine (2.3 g) to give 0.9 g of ethyl N-isoamyl-2,3-epoxysuccinamate (Compound No. 17) as colorless needles melting at 59°-61° C.

reactant | monoethyl potassium epoxysuccinate | 1.5 g | O1C(C(=O)O)C1C(=O)O.C(C)[K]
reactant | oxalyl chloride | 1.04 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | isoamylamine | 2.3 g | C(CC(C)C)N | C5H13N
product | ethyl N-isoamyl-2,3-epoxysuccinamate | 0.9 g | C(CC(C)C)NC(C1C(C(=O)OCC)O1)=O | C11H19NO4
